US05436260
Methyl Z-4-[[2-butyl-5-[[1-butyl-3-[(2-methyl-4-thiazolyl)methyl]-2,5-dioxo-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate dihydrochloride
To a solution of methyl Z-4-[[2-butyl-5-[(1-butyl-2,5-dioxo-4-imidazolidinylidene)methyl]-1H-imidazol-1-yl]methyl]benzoate hydrochloride (0.474 g, 1.0 mmol) in DMF (5 mL) is added K2CO3 (2.0 g, 15 mmol). After stirring for 5 minutes 2-methyl-4-(chloromethyl)thiazole hydrochloride (0.184 g, 1.0 mmol) is added. An additional amount of DMF (10 mL) is added after stirring for 30 minutes. The mixture is stirred for 5 days and then filtered. The filtrate is concentrated in vacuo and dissolved in ether (50 mL). This solution is washed with water and dried over K2CO3 and charcoal. A viscous oil is obtained by evaporation of the solvents in vacuo which is dissolved in ether and treated with ethereal HCl and then evaporated in vacuo to afford a solid foam. Recrystallized from 2-propanol/ether. Anal. Calcd. for C29H35N5O4S. 2HCl.0.5 H2O: C, 55.14; H, 6.07; N, 11.08

reactant | methyl Z-4-[[2-butyl-5-[(1-butyl-2,5-dioxo-4-imidazolidinylidene)methyl]-1H-imidazol-1-yl]methyl]benzoate hydrochloride | 1.0 mmol, 0.474 g | Cl.C(CCC)C=1N(C(=CN1)\C=C\1/NC(N(C1=O)CCCC)=O)CC1=CC=C(C(=O)OC)C=C1
reactant | K2CO3 | 15 mmol, 2.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-methyl-4-(chloromethyl)thiazole hydrochloride | 1.0 mmol, 0.184 g | Cl.CC=1SC=C(N1)CCl
reactant | HCl | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl Z-4-[[2-butyl-5-[[1-butyl-3-[(2-methyl-4-thiazolyl)methyl]-2,5-dioxo-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate dihydrochloride | Cl.Cl.C(CCC)C=1N(C(=CN1)\C=C\1/N(C(N(C1=O)CCCC)=O)CC=1N=C(SC1)C)CC1=CC=C(C(=O)OC)C=C1 | InChI=1S/C29H35N5O4S.2ClH/c1-5-7-9-26-30-16-24(33(26)17-21-10-12-22(13-11-21)28(36)38-4)15-25-27(35)32(14-8-6-2)29(37)34(25)18-23-19-39-20(3)31-23;;/h10-13,15-16,19H,5-9,14,17-18H2,1-4H3;2*1H/b25-15-;;
